US05273999
Preparation of 6-Methoxy-2-quinolinepropanoic Acid 1,1-Dimethylethyl Ester
To a solution of diisopropylamine (7.4 mL, 52.8 mmol) in 70 mL of tetrahydrofuran cooled to -78° C. was added a solution of 1.6M n-butyllithium in hexanes (31.4 mL, 50.2 mmol). After being stirred for 12 minutes, the resulting solution of lithium diisopropylamide was treated with a solution of t-butyl acetate (4.81 g, 41.4 mmol) in 70 mL of tetrahydrofuran, added slowly through an additional funnel. The reaction mixture was allowed to warm gradually to 10° C. over 3.75 hr, and then recooled to -78° C. whereupon a solution of 2-(bromomethyl)-6-methoxyquinoline from the preceding example (3.46 g, 13.7 mmol) in 40 mL of tetrahydrofuran was added and the reaction was allowed to stir overnight at room temperature. The resuting solution was worked-up with ether in the usual manner. Flash chromatography of the crude product on 360 g of silica gel, eluting with hexane-ethyl acetate (4:1) afforded 1.31 g (33.8 %) of the title compound as an orange oil.

reactant | diisopropylamine | 52.8 mmol, 7.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | t-butyl acetate | 41.4 mmol, 4.81 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 2-(bromomethyl)-6-methoxyquinoline | BrCC1=NC2=CC=C(C=C2C=C1)OC | C11H10BrNO
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 6-Methoxy-2-quinolinepropanoic Acid 1,1-Dimethylethyl Ester | 1.31 g, 33.8 % | CC(C)(C)OC(CCC1=NC2=CC=C(C=C2C=C1)OC)=O | C17H21NO3
